US05300668
Step 1, methyl 4-t-butyldimethylsilyloxymethylphenylacetate
To a solution of methyl p-hydroxymethylphenylacetate (3.30 g, 18.3 mmol, prepared according to the method of G. Biagi et al., E. Ed. Farmaco., 43, 597 (1988)) in 6.6 ml DMF was added TBDMS-Cl (3.31 g, 22.0 mmol) and imidazole (3.12 g, 45.8 mmol), and the resulting solution was stirred at ambient temperature for 18 hours. The mixture was poured into 100 ml H2O and extracted (EtOAc, 4×50 ml). The combined extracts were dried (MgSO4), filtered and concentrated. The crude material was chromatographed (EtOAc:hexane, 5:95) to afford the title compound (5.0 g, 92% yield) as an oil.

reactant | methyl p-hydroxymethylphenylacetate | OCC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | TBDMS-Cl | 22.0 mmol, 3.31 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 45.8 mmol, 3.12 g | N1C=NC=C1 | C3H4N2
reactant | H2O | 100 ml | O | H2O
solvent | DMF | 6.6 ml | CN(C)C=O | C3H7NO
product | methyl 4-t-butyldimethylsilyloxymethylphenylacetate | 5.0 g, 92% yield | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)CC(=O)OC | C16H26O3Si
